US07115617B2
N2-(3,4,5-Trimethoxyphenyl)-N4-(5-phenylisoxazol-3-yl)-2,4-pyrimidinediamine
The title compound was prepared by the method described in Example 1 using 2-chloro-N4-(5-phenylisoxazol-3-yl)-4-pyrimidineamine and 3,4,5-trimethoxyaniline. MS (MH+)=420.4, Calc'd for C22H21N5O4— 419.44.

reactant | 2-chloro-N4-(5-phenylisoxazol-3-yl)-4-pyrimidineamine | ClC1=NC=CC(=N1)NC1=NOC(=C1)C1=CC=CC=C1 | C13H9ClN4O
reactant | 3,4,5-trimethoxyaniline | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
product | N2-(3,4,5-Trimethoxyphenyl)-N4-(5-phenylisoxazol-3-yl)-2,4-pyrimidinediamine | COC=1C=C(C=C(C1OC)OC)NC1=NC=CC(=N1)NC1=NOC(=C1)C1=CC=CC=C1 | C22H21N5O4
